US05071468
0.77g of 2-amino-3-chlorophenyl allyl ether in 12ml of dry pyridine were treated with 1.03g of 5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulphonyl chloride and stirred at ambient temperature overnight. The pyridine was removed by evaporation with final traces eliminated by means of a vacuum pump. An oily brown product was obtained which was stirred with 30ml of 1M sodium hydroxide for 20 minutes to give a brown solution. Charcoal (20-30mg) was added and the mixture stirred for 10 minutes and then filtered through Celite ("Celite" is a trade mark). The filtrate was cooled, acidified with 10% hydrochloric acid to pH 1-2 to produce a solid which was then filtered off, washed with water and dried in vacuo to give 1.2g (a yield of 73%) of 5,7-dimethyl-2-(N-[2-allyloxy-6-chlorophenyl]-sulphamoyl)-1,2,4-triazolo[1,5-a]pyrimidine (Compound No. 1).

reactant | 2-amino-3-chlorophenyl allyl ether | 0.77g | C(C=C)OC1=C(C(=CC=C1)Cl)N | C9H10ClNO
reactant | 5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulphonyl chloride | 1.03g | CC1=NC=2N(C(=C1)C)N=C(N2)S(=O)(=O)Cl | C7H7ClN4O2S
reactant | sodium hydroxide | 1M, 30ml | [OH-].[Na+]
reactant | Charcoal | 20-30mg | C | CH4
solvent | pyridine | 12ml | N1=CC=CC=C1 | C5H5N
product | 5,7-dimethyl-2-(N-[2-allyloxy-6-chlorophenyl]-sulphamoyl)-1,2,4-triazolo[1,5-a]pyrimidine | yield of 73% | CC1=NC=2N(C(=C1)C)N=C(N2)S(NC2=C(C=CC=C2Cl)OCC=C)(=O)=O | C16H16ClN5O3S
